US04443248
Preparation of N,N-Dimethyl-2-[5-(2,4-dichlorophenoxy)-2-propylthiophenoxy]propionamide
5-(2,4-Dichlorophenoxy)-2-(propylthio)phenol (0.05 mole), potassium carbonate (0.2 mole), N,N-dimethyl 2-bromopropionamide (0.08 mole) and dimethylsulfoxide (200 ml) are charged into a 500 ml glass reaction flask equipped with a mechanical stirrer. The reaction mixture is stirred at room temperature for a period of about 8 hours. After this time the mixture is poured into 500 ml of water. The resulting mixture is extracted three times with 100 ml portions of methylene chloride. The extracts are then combined, washed with water and therafter dried. The dried solution is then stripped of solvent under reduced pressure to leave a residue. The residue is subjected to chromatography using a clay column and hexane/ethyl acetate mixtures as the eluant. The fractions containing the product are combined and stripped of solvent to yield the desired product N,N-dimethyl-2-[5-(2,4-dichlorophenoxy)-2-propylthiophenoxy]propionamide as the residue.

reactant | 5-(2,4-Dichlorophenoxy)-2-(propylthio)phenol | 0.05 mole | ClC1=C(OC=2C=CC(=C(C2)O)SCCC)C=CC(=C1)Cl | C15H14Cl2O2S
reactant | potassium carbonate | 0.2 mole | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethyl 2-bromopropionamide | 0.08 mole | CN(C(C(C)Br)=O)C | C5H10BrNO
reactant | dimethylsulfoxide | 200 ml | CS(=O)C | C2H6OS
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | water | 500 ml | O | H2O
product | N,N-dimethyl-2-[5-(2,4-dichlorophenoxy)-2-propylthiophenoxy]propionamide | CN(C(C(C)SC1=C(C=CC(=C1)OC1=C(C=C(C=C1)Cl)Cl)CCC)=O)C | C20H23Cl2NO2S
